US09029388B2
C) 2-(4-Bromophenoxy)-1H-benzimidazole
A mixture of 2-chloro-1H-benzimidazole (5.6 g), 4-bromophenol (9.87 g) and triethylamine (19.89 ml) was stirred at 120° C. for 15 hr, and ethyl acetate was added. The reaction mixture was washed with 1 M aqueous sodium hydroxide solution and saturated brine, dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. A solid precipitated from the residue was collected by filtration to give the title compound (5.77 g).

reactant | 2-chloro-1H-benzimidazole | 5.6 g | ClC1=NC2=C(N1)C=CC=C2 | C7H5ClN2
reactant | 4-bromophenol | 9.87 g | BrC1=CC=C(C=C1)O | C6H5BrO
reactant | triethylamine | 19.89 ml | C(C)N(CC)CC | C6H15N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(4-Bromophenoxy)-1H-benzimidazole | 5.77 g | BrC1=CC=C(OC2=NC3=C(N2)C=CC=C3)C=C1 | C13H9BrN2O
